US07141596B2
Step 3. Synthesis of 1-[2-bromo-4-(methoxycarbonyl)phenyl]-3-methoxy-3-oxopropane-1-sulfonic acid—pyridine (1:1)
To a flask contained 1-[2-bromo-4-(methoxycarbonyl)phenyl]-3-methoxy-3-oxopropane-1-sulfonic acid (0.78 g, 2.0 mmol) was added acetic anhydride (0.965 mL, 10.2 mmol) and pyridine (0.496 mL) at room temperature. The mixture was stirred at room temperature overnight. The salt was precipitated by addition of diethyl ether, isolated by filtration. The crude product was used in next step.

reactant | 1-[2-bromo-4-(methoxycarbonyl)phenyl]-3-methoxy-3-oxopropane-1-sulfonic acid | 2.0 mmol, 0.78 g | BrC1=C(C=CC(=C1)C(=O)OC)C(CC(=O)OC)S(=O)(=O)O | C12H13BrO7S
reactant | acetic anhydride | 10.2 mmol, 0.965 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.496 mL | N1=CC=CC=C1 | C5H5N
product | 1-[2-bromo-4-(methoxycarbonyl)phenyl]-3-methoxy-3-oxopropane-1-sulfonic acid pyridine | BrC1=C(C=CC(=C1)C(=O)OC)C(CC(=O)OC)S(=O)(=O)O.N1=CC=CC=C1 | InChI=1S/C12H13BrO7S.C5H5N/c1-19-11(14)6-10(21(16,17)18)8-4-3-7(5-9(8)13)12(15)20-2;1-2-4-6-5-3-1/h3-5,10H,6H2,1-2H3,(H,16,17,18);1-5H
